US07737166B2
2-Amino-5-bromo-3-cyano-6-fluoro-4-methylphenyl acetate (I-76)
2-Amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile (I-75) (7.86 g, 32.08 mmol) and diisopropylethylamine (19.5 ml, 112.2 mmol) were dissolved in ethyl acetate (300 ml), and at 0° C., cyclopropanecarbonyl chloride (4.4 ml, 48.12 mmol) was dropwise added, followed by stirring at room temperature for 16 hours under nitrogen atmosphere. After the reaction, ethyl acetate was added to the reaction liquid, followed by washing with water and saturated brine. The organic layer was concentrated under reduced pressure, the resulting residue was recrystallized with diisopropyl ether/ethyl acetate to obtain the entitled compound (8.96 g, 89%) as a white solid.

reactant | 2-Amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile | 32.08 mmol, 7.86 g | NC1=C(C#N)C(=C(C(=C1O)F)Br)C | C8H6BrFN2O
reactant | diisopropylethylamine | 112.2 mmol, 19.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 48.12 mmol, 4.4 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5-bromo-3-cyano-6-fluoro-4-methylphenyl acetate | 8.96 g, 89% | C(C)(=O)OC1=C(C(=C(C(=C1F)Br)C)C#N)N | C10H8BrFN2O2
